### ISSUE TITLE
Gallery integrity: erdos-546 has a FALSE axiom (cycle_edge_count over misdefined cycleGraph) → inconsistent

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#40915]
## Integrity Issue — CRITICAL (false axiom / inconsistent axiom set)

**Proof**: erdos-546 (Ramsey Numbers and Edge Count)
**File**: `proofs/Proofs/Erdos546Problem.lean`
**Problem**: `cycleGraph` is misdefined so that it is actually the **path** `P_n`, not a cycle. The axiom `cycle_edge_count` then asserts a value (`n`) that is false for the real graph (`n-1`), making the trusted axiom set inconsistent (the kernel can derive `False`).

## The misdefinition

```lean
-- line 131
def cycleGraph (n : ℕ) (hn : n ≥ 3) : SimpleGraph (Fin n) where
  Adj i j := (i.val + 1 = j.val % n) ∨ (j.val + 1 = i.val % n)
  ...
```

For `i j : Fin n` we always have `j.val < n` and `i.val < n`, so `j.val % n = j.val` and `i.val % n = i.val`. The `% n` is a **no-op**, and the adjacency reduces to

```
(i.val + 1 = j.val) ∨ (j.val + 1 = i.val)
```

which is exactly `pathGraph`'s adjacency (line 122). There is **no wrap-around edge**: the closing edge `(n-1) ↔ 0` would require `n-1+1 = 0 % n = 0` (i.e. `n = 0`) or `0+1 = (n-1) % n = n-1` (i.e. `n = 2`), neither of which holds for `n ≥ 3`. So `cycleGraph n hn = pathGraph n`, which has `n - 1` edges, not `n`.

## The false axiom

```lean
-- line 153
axiom cycle_edge_count (n : ℕ) (hn : n ≥ 3) : edgeCount (cycleGraph n hn) = n
```

This claims `n` edges, but the real graph has `n - 1`. Combined with the (correct) `path_edge_count` axiom and the provable graph equality, it yields `False`.

## Concrete derivation of False (n = 3)

```lean
example : False := by
  have hEq : pathGraph 3 = cycleGraph 3 (by norm_num) := by
    ext i j
    simp [pathGraph, cycleGraph, Nat.mod_eq_of_lt i.isLt, Nat.mod_eq_of_lt j.isLt]
  have h1 : edgeCount (pathGraph 3) = 2 := path_edge_count 3 (by norm_num)      -- n-1 = 2
  have h2 : edgeCount (cycleGraph 3 (by norm_num)) = 3 := cycle_edge_count 3 (by norm_num)
  rw [hEq] at h1            -- edgeCount (cycleGraph 3 _) = 2
  omega                     -- 2 = 3 from h1, h2
```

(The `edgeCount` `DecidableRel` instances agree up to the classical instance opened at the top of the file; `card` is independent of the instance. If `rw` needs massaging, `convert`/`simp` on `edgeFinset` closes it — the underlying contradiction `n-1 = n` is unavoidable.)

## Recommended fix

Apply `% n` to the *incremented* endpoint so the wrap edge exists:

```lean
def cycleGraph (n : ℕ) (hn : n ≥ 3) : SimpleGraph (Fin n) where
  Adj i j := ((i.val + 1) % n = j.val) ∨ ((j.val + 1) % n = i.val)
  ...
```

Then vertex `n-1` is adjacent to `0` (`(n-1+1) % n = 0`), giving a genuine `C_n` with `n` edges and making `cycle_edge_count` true. The `symm`/`loopless` proofs will need updating accordingly.

---
Discovered during gallery integrity audit (reserve mode). Same class as the erdos-548 inconsistency filed today (#40912) and #40895/#40899 — false value-axioms over concrete/misdefined definitions. General check: every value-axiom over a concrete `def` must actually hold for that def.
